US05232921
A) N-Benzoyl-N'-(diethylaminoethyl)thiourea
A solution of 70 ml of benzoyl chloride in 100 ml of anhydrous acetone is added dropwise, at room temperature, to a suspension of 51 g of potassium thiocyanate in 300 ml of anhydrous acetone. When the addition is complete, the reaction mixture is refluxed for 5 minutes. A solution of 85 ml of 2-diethylaminoethylamine in 100 ml of methylene chloride is added slowly to the resulting hot solution, with vigorous stirring, so as to keep the mixture under reflux. When the addition is complete, the mixture is stirred for 1 hour at room temperature, the solvents are then evaporated off and the residue is taken up in iced water. Extraction is carried out twice with 200 ml of methylene chloride and the solution is dried over magnesium sulfate. The solvent is evaporated off to dryness and the oily product obtained is purified by chromatography on a silica column. Impurities of low polarity are removed by elution with an 80/20 (vol/vol) methylene chloride/ethyl acetate mixture. The expected product is then obtained by elution with a 95/5 (vol/vol) methylene chloride/methanol mixture.

reactant | benzoyl chloride | 70 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | potassium thiocyanate | 51 g | [S-]C#N.[K+]
reactant | 2-diethylaminoethylamine | 85 ml | C(C)N(CCN)CC | C6H16N2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Benzoyl-N'-(diethylaminoethyl)thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCN(CC)CC | C14H21N3OS
